US08492427B2
2-Cyano-5-(2-fluoro-4-trimethylsilanylphenylamino)-terephthalic acid dimethyl ester
2-Bromo-5-cyano-terephthalic acid dimethyl ester (620 mg, 2.1 mmol), 2-fluoro-4-trimethylsilanyl-phenylamine (419 mg, 2.3 mmol), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (62 mg, 0.10 mmol), potassium phosphate (486 mg, 2.30 mmol) and tris(dibenzylideneacetone)dipalladium (0) (29 mg, 0.05 mmol) were suspended in dioxane (20 ml) and the resultant mixture purged with argon. The reaction mixture was heated at reflux for 16 hours. The reaction was quenched by the addition of saturated aqueous ammonium chloride solution (20 ml) and the resultant mixture extracted with ethyl acetate (3×20 mL). The combined organic fractions were washed with brine (20 ml), dried (MgSO4) and concentrated in vacuo. The resultant residue was subjected to flash chromatography (SiO2, gradient 0-40% ethyl acetate in cyclohexane) to yield the title compound as a brown solid (0.5 g, 60%). LCMS (Method B): RT=4.74 min, M+H+=401.

reactant | 2-Bromo-5-cyano-terephthalic acid dimethyl ester | 2.1 mmol, 620 mg | COC(C1=C(C=C(C(=O)OC)C(=C1)C#N)Br)=O | C11H8BrNO4
reactant | 2-fluoro-4-trimethylsilanyl-phenylamine | 2.3 mmol, 419 mg | FC1=C(C=CC(=C1)[Si](C)(C)C)N | C9H14FNSi
reactant | potassium phosphate | 2.30 mmol, 486 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 20 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.05 mmol, 29 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.10 mmol, 62 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 2-Cyano-5-(2-fluoro-4-trimethylsilanylphenylamino)-terephthalic acid dimethyl ester | 0.5 g, 60% | COC(C1=C(C=C(C(=O)OC)C(=C1)NC1=C(C=C(C=C1)[Si](C)(C)C)F)C#N)=O | C20H21FN2O4Si
